US05514798
Adenine (9.1 g), ethylene carbonate (6.0 g), and sodium hydroxide (0.14 g) in DMF (68 ml) were heated at reflux for 2 hr The solution was cooled to 0°, then 70 ml of toluene were added. After sitting for 2 hr at 0°, the precipitate was collected, rinsed with 100 ml of toluene, then cold ethanol, and dried to afford N9 -hydroxyethyladenine.

reactant | Adenine | 9.1 g | N1=CN=C2N=CNC2=C1N | C5H5N5
reactant | ethylene carbonate | 6.0 g | C1(OCCO1)=O | C3H4O3
reactant | sodium hydroxide | 0.14 g | [OH-].[Na+]
reactant | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
solvent | DMF | 68 ml | CN(C)C=O | C3H7NO
product | N9 -hydroxyethyladenine | OCCN1C2=NC=NC(=C2N=C1)N | C7H9N5O
